US07678818B2
b) Preparation of 5-chloro-2-isopropylamino-benzoic acid methyl ester
To a solution of 500 mg of 2-amino-5-chlorobenzoic acid methyl ester (2.69 mmol) were added slowly 380 μl of 2-methoxypropene (4.04 mmol), 154 μl of acetic acid (2.69 mmol) and 951 mg of sodium triacetoxyborohydride (4.04 mmol). The reaction mixture was stirred at RT for 3.5 d, then 1N NaOH solution was added and the mixture was extracted with DCM. The combined organic extracts were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The remaining residue was purified by column chromatography (silica gel; heptane 100% to heptane/EtOAc 9:1) to give 488 mg (80%) of a yellow liquid. MS (ISP) 228.1 (M+H)+.

reactant | 2-amino-5-chlorobenzoic acid methyl ester | 2.69 mmol, 500 mg | COC(C1=C(C=CC(=C1)Cl)N)=O | C8H8ClNO2
reactant | 2-methoxypropene | 4.04 mmol, 380 μl | COC(=C)C | C4H8O
reactant | acetic acid | 2.69 mmol, 154 μl | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 4.04 mmol, 951 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
product | 5-chloro-2-isopropylamino-benzoic acid methyl ester | 488 mg, 80% | COC(C1=C(C=CC(=C1)Cl)NC(C)C)=O | C11H14ClNO2
